US04621084
6-(3,6-Dimethylimidazo[1,2-a]pyridin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (1.8 g) was prepared in substantially the same manner as that of Example 16 from 6-(2-bromopropionyl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (2.4 g) and 2-amino-5-methylpyridine (2.6 g). mp. 232° C. (dec.).

reactant | 6-(2-bromopropionyl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 2.4 g | BrC(C(=O)C=1C=CC2=C(NC(C(O2)C)=O)C1)C | C12H12BrNO3
reactant | 2-amino-5-methylpyridine | 2.6 g | NC1=NC=C(C=C1)C | C6H8N2
product | 6-(3,6-Dimethylimidazo[1,2-a]pyridin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 1.8 g | CC1=C(N=C2N1C=C(C=C2)C)C=2C=CC1=C(NC(C(O1)C)=O)C2 | C18H17N3O2
